US04082843
3-(3-amino-4-chlorobenzoyl)propionic acid was diagotised in sulphuric acid solution with sodium nitrite and the diazonium salt solution was added dropwise to boiling aqueous sulphuric acid to give 3-(4-chloro-3-hydroxybenzoyl)propionic acid.

reactant | 3-(3-amino-4-chlorobenzoyl)propionic acid | NC=1C=C(C(=O)CCC(=O)O)C=CC1Cl | C10H10ClNO3
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 3-(4-chloro-3-hydroxybenzoyl)propionic acid | ClC1=C(C=C(C(=O)CCC(=O)O)C=C1)O | C10H9ClO4
